** sch_path: /workspaces/usm-vlsi-tools/shared_xserver/SSTADEx/test/sstadex/xschem/sd_example2.sch
**.subckt sd_example2
XM1 vout vg1 vss vss sg13_hv_nmos w=73.46u l=0.8u ng=1 m=1
C1 vout vss 1e-12 m=1
I1 vss vout 2.31e-6
B1 net1 vss V = vcc/2*(1+tanh(1000*(v(vfb)-v(vref))))
V1 vg1 net1 dc 0 ac 1
R1 vfb vout 100000000 m=1
C2 vfb vss 10 m=1
**** begin user architecture code



.lib /opt/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerMOShv.lib mos_tt
.lib /opt/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerMOSlv.lib mos_tt

Vdd vdd 0 3.3
Vss vss 0 0
Vref vref 0 1.2

.param vcc=3.3

.control
ac dec 1000 1 1G
plot vdb(vout)
wrdata sd_example2.csv vdb(vout)
op
print vout
print vfb
print vg1
print vg2
let gm_diff = @n.xm1.nsg13_hv_nmos[gm]
let id_diff = @n.xm1.nsg13_hv_nmos[ids]
let gds_diff = @n.xm1.nsg13_hv_nmos[gds]
print gm_diff
print gds_diff
print id_diff
print gm_diff/id_diff
.endc



**** end user architecture code
**.ends
.end
